US04886810
A mixture of ethyl 7-(3-acetylamino-3-methyl1-pyrroldinyl)-1-cyclopropyl-5-ethoxycarbonylamino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 20% aqueous sodium hydroxide, and ethanol was refluxed for 12 hours. The reaction mixture was treated with activated carbon and adjusted at pH 1-2 with 10% hydrochloric acid. After cooling, the resulting crystals were collected by filtration and recrystallized from water-ethanol to give 5-amino-7-(3-amino-3-methyl-1-pyrroldinyl)-1-cyclopropyl6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride, m.p. 293°-297° C. (decomp.).

reactant | ethyl 7-(3-acetylamino-3-methyl1-pyrroldinyl)-1-cyclopropyl-5-ethoxycarbonylamino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | C(C)(=O)NC1(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)NC(=O)OCC)F)C | C25H30F2N4O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-7-(3-amino-3-methyl-1-pyrroldinyl)-1-cyclopropyl6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | Cl.NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)(C)N)F)C1CC1)C(=O)O)=O | InChI=1S/C18H20F2N4O3.ClH/c1-18(22)4-5-23(7-18)15-11(19)13(21)10-14(12(15)20)24(8-2-3-8)6-9(16(10)25)17(26)27;/h6,8H,2-5,7,21-22H2,1H3,(H,26,27);1H
